US06140100
To a 250 mL round bottomed flask equipped with a magnetic stirrer were added 30 mL of isobutylene (condensed at -78° C.), 1.30 g of 3-tert-butyl-L-tyrosine.HCl, 60 mL of 1,4-dioxane, and 0.5 mL of concentrated H2SO2. The flask was sealed with a rubber septum and wired shut. After stirring at RT for 18 h, the flask was vented and the contents poured into a solution of 10 g of NaHCO3 in 150 mL of water. The mixture was subjected to rotary evaporation to remove isobutylene. An emulsion resulted which was extracted with EtOAc (4×40 mL). The combined extracts were washed with 5% aqueous NaHCO3 (3×50 mL), dried over anhydrous MgSO4, and concentrated to give a light yellow foam. Analysis of the product by tlc (SiO2, 95:5 CH2Cl2 :MeOH) indicated major and minor components at Rf =0.45 and 0.49 respectively. The Rf =0.45 product was isolated by flash chromatography on silica gel (95:5 CH2Cl2 :MeOH) to afford 0.61 g (44%) of tert-butyl-3-tert-butyl-L-tyrosinate as a white foam, m.p. 43-52° C.

reactant | isobutylene | 30 mL | CC(C)=C | C4H8
reactant | 3-tert-butyl-L-tyrosine | 1.30 g | C(C)(C)(C)C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C13H19NO3
reactant | HCl | Cl | ClH
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
solvent | water | 150 mL | O | H2O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | tert-butyl-3-tert-butyl-L-tyrosinate | 0.61 g, 44% | C(C)(C)(C)OC([C@@H](N)CC1=CC(=C(C=C1)O)C(C)(C)C)=O | C17H27NO3
